US09359336B2
To a solution of 3-iodo-5-isocyanopyridine (2.4 g, 10.43 mmol, 1 eq) in anhydrous DMF (25 mL) in a round bottom flask was added ammonium chloride (0.95 g, 1.7 eq) and sodium azide (1.15 g, 1.7 eq). After the reaction mixture was heated and stirred at 100° C. under anhydrous nitrogen atmosphere for 16 hours, it was cooled to room temperature and poured into ice water. 2 N HCl was dropwise added to adjust the pH ˜3 followed by a further stirring for about 30 minutes. The aqueous layer was first extracted with ethyl acetate, followed by an extraction with THF-EtOAc (1:9), and lastly an extraction with i-PrOH—CHCl3 (1:6). All organic solvents were combined and dried with anhydrous sodium sulfate. The upper clear liquor was decanted, concentrated, and the resulting solid residue was treated with EtOAc-Hex (1:9). After the mixture was stirred about 16 hours, it was filtered to yield 3-iodo-5-(2H-tetrazol-5-yl)pyridine as white solid in the amount of 2.36 g.

reactant | 3-iodo-5-isocyanopyridine | 10.43 mmol, 2.4 g, 1 eq | IC=1C=NC=C(C1)[N+]#[C-] | C6H3IN2
reactant | ammonium chloride | 0.95 g, 1.7 eq | [Cl-].[NH4+]
reactant | sodium azide | 1.15 g, 1.7 eq | [N-]=[N+]=[N-].[Na+]
reactant | HCl | 2 N | Cl | ClH
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 3-iodo-5-(2H-tetrazol-5-yl)pyridine | IC=1C=NC=C(C1)C=1N=NNN1 | C6H4IN5
